US07923573B2
After lithium bis(trimethylsilyl)amide (1M n-hexane solution, 0.32 ml, 0.32 mmol) was added to a solution of tert-butyl 2-(allyloxy)-6-[({2′-ethyl-4′-[(methoxycarbonyl)methyl]-1,1′-biphenyl-4-yl}oxy)methyl]-3-(trifluoromethyl)benzoate (105 mg, 0.19 mmol) in tetrahydrofuran (2 ml) at −78° C. under nitrogen atmosphere and the mixture was stirred for 0.5 hours, methyl iodide (30 μl, 0.48 mmol) was added thereto and the mixture was stirred for 1 hour. After a saturated aqueous NaCl solution was added to the reaction mixture and the mixture was extracted with ethyl acetate, the organic layer was washed with a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel preparative thin layer chromatography (developing solvent: hexane/ethyl acetate=5/1) to give tert-butyl 2-(allyloxy)-6-[({2′-ethyl-4′-[1-(methoxycarbonyl)ethyl]-1,1′-biphenyl-4-yl}oxy)methyl]-3-(trifluoromethyl)benzoate as an oil (30 mg, yield: 27%).

reactant | lithium bis(trimethylsilyl)amide | 0.32 mmol, 1M, 0.32 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl 2-(allyloxy)-6-[({2′-ethyl-4′-[(methoxycarbonyl)methyl]-1,1′-biphenyl-4-yl}oxy)methyl]-3-(trifluoromethyl)benzoate | 0.19 mmol, 105 mg | C(C=C)OC1=C(C(=O)OC(C)(C)C)C(=CC=C1C(F)(F)F)COC1=CC=C(C=C1)C1=C(C=C(C=C1)CC(=O)OC)CC | C33H35F3O6
reactant | methyl iodide | 0.48 mmol, 30 μl | CI | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-(allyloxy)-6-[({2′-ethyl-4′-[1-(methoxycarbonyl)ethyl]-1,1′-biphenyl-4-yl}oxy)methyl]-3-(trifluoromethyl)benzoate | 30 mg, yield: 27% | C(C=C)OC1=C(C(=O)OC(C)(C)C)C(=CC=C1C(F)(F)F)COC1=CC=C(C=C1)C1=C(C=C(C=C1)C(C)C(=O)OC)CC | C34H37F3O6
